US07265120B2
A solution of N-[1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]acetamide (1.00 g) in 10% hydrogen chloride solution of MeOH (10 ml) was refluxed for 24 hours. After cooling, a precipitate was collected by filtration to give 6-(1-amino-2-oxo-2-phenylethyl)-2-isopropyl-3(2H)-pyridazinone hydrochloride as a solid (534 mg). A filtrate was concentrated under reduced pressure, triturated with IPE and collected by filtration to give the same compound as a solid (333 mg).

reactant | N-[1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]acetamide | 1.00 g | C(C)(C)N1N=C(C=CC1=O)C(C(C1=CC=CC=C1)=O)NC(C)=O | C17H19N3O3
reactant | MeOH | 10 ml | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
product | 6-(1-amino-2-oxo-2-phenylethyl)-2-isopropyl-3(2H)-pyridazinone hydrochloride | 534 mg | Cl.NC(C(C1=CC=CC=C1)=O)C=1C=CC(N(N1)C(C)C)=O | InChI=1S/C15H17N3O2.ClH/c1-10(2)18-13(19)9-8-12(17-18)14(16)15(20)11-6-4-3-5-7-11;/h3-10,14H,16H2,1-2H3;1H
